US08623859B2
2-({4-[({[5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-yl]carbonyl}amino)methyl]phenyl}amino)-1-methylpyridinium iodide
The title compound was prepared according to general procedure AD using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (50 mg, 0.13 mmol), CDI (33 mg, 0.2 mmol), DIPEA (0.14 mL, 0.81 mmol) and 2-{[4-(aminomethyl)phenyl]amino}-1-methylpyridinium iodide hydrochloride (53 mg, 0.14 mmol) in DCE (1.0 mL).

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.13 mmol, 50 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.2 mmol, 33 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIPEA | 0.81 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-{[4-(aminomethyl)phenyl]amino}-1-methylpyridinium iodide hydrochloride | 0.14 mmol, 53 mg | Cl.[I-].NCC1=CC=C(C=C1)NC1=[N+](C=CC=C1)C
solvent | DCE | 1.0 mL | ClCCCl | C2H4Cl2
product | 2-({4-[({[5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-yl]carbonyl}amino)methyl]phenyl}amino)-1-methylpyridinium iodide | [I-].COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)NCC1=CC=C(C=C1)NC1=[N+](C=CC=C1)C)C | InChI=1S/C29H32N4O5S.HI/c1-20-14-25(37-5)15-21(2)28(20)39(35,36)33(4)18-26-16-23(19-38-26)29(34)30-17-22-9-11-24(12-10-22)31-27-8-6-7-13-32(27)3;/h6-16,19H,17-18H2,1-5H3,(H,30,34);1H
